US06992067B2
1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-{2-[2-(2-iodoethoxy)ethoxy]ethoxy}phenyl)azetidin-2-one (65)
150 mg of 1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-hydroxyphenyl)azetidin-2-one are dissolved in 10 ml of absolute dimethylformamide. 120 mg of powdered potassium carbonate and 0.4 ml of 1,2-bis(diiodoethoxy)ethane are then added. The reaction solution is stirred at room temperature overnight. After concentration using a rotary evaporator and oil pump vacuum at 40° C., the residue is purified using an SiO2 cartridge (n-heptane; n-heptane/ethylacetate 4:1). The product is obtained as an oil. C30H32F2INO5 (651) MS (ESI): M+−18

reactant | 1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-hydroxyphenyl)azetidin-2-one | 150 mg | FC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C=C1)O)CCC(O)C1=CC=C(C=C1)F)=O | C24H21F2NO3
reactant | potassium carbonate | 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-bis(diiodoethoxy)ethane | 0.4 ml | IC(COCCOCC(I)I)I | C6H10I4O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-{2-[2-(2-iodoethoxy)ethoxy]ethoxy}phenyl)azetidin-2-one | FC1=CC=C(C=C1)N1C(C(C1C1=CC=C(C=C1)OCCOCCOCCI)CCC(O)C1=CC=C(C=C1)F)=O | C30H32F2INO5
